* D:\memristive-brain\test-circuits\LTSPICE\leaky-intergator\somaforprototype.asc
V1 +5 0 5
V2 0 -5 5
XU26 N013 N006 +5 -5 N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R102 N010 N013 0.1Meg
R103 0 N013 390K
R104 P001 0 100K
R105 N010 N006 120K
C26 N006 0 47n
C27 P001 N012 0.01µ
XU27 membr N007 +5 -5 N014 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C28 0 membr 2.2µ
R106 N014 N007 10K
R107 N014 membr 4.7K
R108 N007 0 1Meg
XU28 N014 N009 +5 -5 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU29 N011 N005 +5 -5 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D31 0 N005 D
D32 P002 N011 D
R109 N008 N011 0.1Meg
R110 0 N011 100K
R111 P002 0 100K
R112 N008 N005 250K
C29 N005 0 22n
C30 P002 N010 0.01µ
D33 N008 P003 D
R113 OM1 P003 12K
R114 0 OM1 24K
XU30 0 N018 +5 -5 N017 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R115 N017 N018 1Meg
R116 N019 N018 1Meg
D34 N010 N019 D
R117 N017 membr 15K
R119 N009 -5 82K
R120 +5 N009 65K
D35 0 N006 D
D36 P001 N013 D
XU11 N100 N086 +5 -5 N098 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D13 N086 0 D
D14 N100 P004 D
R44 N098 N100 0.1Meg
R45 0 N100 400K
R46 P004 0 100K
R47 N098 N086 150K
C12 N086 0 45n
C13 P004 N050 0.01µ
V6 N097 0 PULSE(0 3 0m 0 0 3m 25m)
XU12 N099 N085 +5 -5 N096 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D15 0 N085 D
D16 P005 N099 D
R48 N096 N099 0.1Meg
R49 0 N099 100K
R50 P005 0 100K
R51 N096 N085 150K
C14 N085 0 20n
C15 P005 N098 0.01µ
D17 N096 P006 D
R52 Delay-2 P006 12K
R53 0 Delay-2 25K
XU13 0 N088 +5 -5 N050 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R54 N050 N088 150K
R55 N088 N097 150K
XU14 N079 N074 +5 -5 N077 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D18 N074 0 D
D19 N079 P007 D
R56 N077 N079 0.1Meg
R57 0 N079 400K
R58 P007 0 100K
R59 N077 N074 150K
C16 N074 0 30n
C17 P007 N050 0.01µ
XU15 N078 N073 +5 -5 N076 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D20 0 N073 D
D21 P008 N078 D
R60 N076 N078 0.1Meg
R61 0 N078 100K
R62 P008 0 100K
R63 N076 N073 150K
C18 N073 0 20n
C19 P008 N077 0.001µ
D22 N076 P009 D
R64 Delay-1 P009 12K
R65 0 Delay-1 25K
XU17 N070 N065 +5 -5 N068 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D23 N065 0 D
D24 N070 P010 D
R68 N068 N070 0.1Meg
R69 0 N070 400K
R70 P010 0 100K
R71 N068 N065 150K
C20 N065 0 60n
C21 P010 N050 0.01µ
XU18 N069 N063 +5 -5 N067 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D25 0 N063 D
D26 P011 N069 D
R72 N067 N069 0.1Meg
R73 0 N069 100K
R74 P011 0 100K
R75 N067 N063 150K
C22 N063 0 20n
C23 P011 N068 0.001µ
D27 N067 P012 D
R76 Delay-3 P012 12K
R77 0 Delay-3 25K
XU19 N051 N046 +5 -5 N048 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D28 N046 0 D
D29 N051 P013 D
R78 N048 N051 0.1Meg
R79 0 N051 400K
R80 P013 0 100K
R81 N048 N046 150K
C24 N046 0 75n
C25 P013 N050 0.01µ
XU20 N049 N045 +5 -5 N047 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D30 0 N045 D
D37 P014 N049 D
R82 N047 N049 0.1Meg
R83 0 N049 100K
R84 P014 0 100K
R85 N047 N045 150K
C31 N045 0 20n
C32 P014 N048 0.001µ
D38 N047 P015 D
R86 Delay-4 P015 12K
R87 0 Delay-4 25K
XU21 N042 N037 +5 -5 N040 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D39 N037 0 D
D40 N042 P016 D
R88 N040 N042 0.1Meg
R89 0 N042 400K
R90 P016 0 100K
R91 N040 N037 150K
C33 N037 0 90n
C34 P016 N050 0.01µ
XU22 N041 N036 +5 -5 N039 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D41 0 N036 D
D42 P017 N041 D
R92 N039 N041 0.1Meg
R93 0 N041 100K
R94 P017 0 100K
R95 N039 N036 150K
C35 N036 0 20n
C36 P017 N040 0.001µ
D43 N039 P018 D
R96 Delay-5 P018 12K
R97 0 Delay-5 25K
XU1 N033 N026 +5 -5 N030 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R2 N030 N033 0.1Meg
R3 0 N033 390K
R4 P019 0 100K
R5 N030 N026 120K
C1 N026 0 47n
C2 P019 N032 0.005µ
XU2 membr2 N027 +5 -5 N034 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C3 0 membr2 2µ
R6 N034 N027 10K
R7 N034 membr2 4.7K
R8 N027 0 1Meg
XU3 N034 N029 +5 -5 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N031 N025 +5 -5 N028 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N025 D
D2 P020 N031 D
R9 N028 N031 0.1Meg
R10 0 N031 100K
R11 P020 0 100K
R12 N028 N025 250K
C4 N025 0 22n
C5 P020 N030 0.005µ
D3 N028 P021 D
R13 OM2 P021 12K
R14 0 OM2 24K
XU5 0 N038 +5 -5 N035 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R15 N035 N038 1Meg
R16 N043 N038 1Meg
D4 N030 N043 D
R17 N035 membr2 15K
R19 N029 -5 82K
R20 +5 N029 62K
D5 0 N026 D
D6 P019 N033 D
XU6 N062 N055 +5 -5 N059 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R23 N059 N062 0.1Meg
R24 0 N062 390K
R25 P022 0 100K
R26 N059 N055 120K
C6 N055 0 47n
C7 P022 N061 0.005µ
XU7 membr3 N056 +5 -5 N064 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 0 membr3 2µ
R27 N064 N056 10K
R28 N064 membr3 4.7K
R29 N056 0 1Meg
XU8 N064 N058 +5 -5 N061 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU9 N060 N054 +5 -5 N057 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D7 0 N054 D
D8 P023 N060 D
R30 N057 N060 0.1Meg
R31 0 N060 100K
R32 P023 0 100K
R33 N057 N054 250K
C9 N054 0 22n
C10 P023 N059 0.005µ
D9 N057 P024 D
R34 OM3 P024 12K
R35 0 OM3 24K
XU10 0 N071 +5 -5 N066 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R36 N066 N071 1Meg
R37 N072 N071 1Meg
D10 N059 N072 D
R38 N066 membr3 15K
R40 N058 -5 82K
R41 +5 N058 62K
D11 0 N055 D
D12 P022 N062 D
XU32 N093 N083 +5 -5 N090 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R126 N090 N093 0.1Meg
R127 0 N093 390K
R128 P025 0 100K
R129 N090 N083 120K
C11 N083 0 47n
C37 P025 N092 0.005µ
XU33 membr4 N084 +5 -5 N094 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C38 0 membr4 2µ
R130 N094 N084 10K
R131 N094 membr4 4.7K
R132 N084 0 1Meg
XU34 N094 N089 +5 -5 N092 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU35 N091 N082 +5 -5 N087 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D44 0 N082 D
D45 P026 N091 D
R133 N087 N091 0.1Meg
R134 0 N091 100K
R135 P026 0 100K
R136 N087 N082 250K
C39 N082 0 22n
C40 P026 N090 0.005µ
D46 N087 P027 D
R137 OM4 P027 12K
R138 0 OM4 24K
XU36 0 N101 +5 -5 N095 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R139 N095 N101 1Meg
R140 N102 N101 1Meg
D47 N090 N102 D
R141 N095 membr4 15K
R143 N089 -5 82K
R144 +5 N089 66K
D48 0 N083 D
D49 P025 N093 D
XU37 N115 N107 +5 -5 N112 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R147 N112 N115 0.1Meg
R148 0 N115 390K
R149 P028 0 100K
R150 N112 N107 120K
C41 N107 0 47n
C42 P028 N114 0.005µ
XU38 membr5 N108 +5 -5 N116 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C43 0 membr5 2µ
R151 N116 N108 10K
R152 N116 membr5 4.7K
R153 N108 0 1Meg
XU39 N116 N111 +5 -5 N114 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU40 N113 N106 +5 -5 N110 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D50 0 N106 D
D51 P029 N113 D
R154 N110 N113 0.1Meg
R155 0 N113 100K
R156 P029 0 100K
R157 N110 N106 250K
C44 N106 0 22n
C45 P029 N112 0.005µ
D52 N110 P030 D
R158 OM5 P030 12K
R159 0 OM5 24K
XU41 0 N118 +5 -5 N117 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R160 N117 N118 1Meg
R161 N122 N118 1Meg
D53 N112 N122 D
R162 N117 membr5 15K
R164 N111 -5 82K
R165 +5 N111 62K
D54 0 N107 D
D55 P028 N115 D
XU42 N128 N120 +5 -5 N125 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R167 N125 N128 0.1Meg
R168 0 N128 390K
R169 P031 0 100K
R170 N125 N120 120K
C46 N120 0 47n
C47 P031 N127 0.005µ
XU43 membrMN N121 +5 -5 N129 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C48 0 membrMN 2µ
R171 N129 N121 10K
R172 N129 membrMN 4.7K
R173 N121 0 1Meg
XU44 N129 N124 +5 -5 N127 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU45 N126 N119 +5 -5 N123 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D56 0 N119 D
D57 P032 N126 D
R174 N123 N126 0.1Meg
R175 0 N126 100K
R176 P032 0 100K
R177 N123 N119 250K
C49 N119 0 22n
C50 P032 N125 0.005µ
D58 N123 P033 D
R178 MN P033 12K
R179 0 MN 24K
XU46 0 N131 +5 -5 N130 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R180 N130 N131 1Meg
R181 N132 N131 1Meg
D59 N125 N132 D
R182 N130 membrMN 15K
R183 membrMN OM3 10K
R184 N124 -5 80K
R185 +5 N124 75K
D60 0 N120 D
D61 P031 N128 D
R186 membrMN N109 3K
XU47 OM2 N022 +5 -5 om_2 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R187 N022 0 1500K
R188 om_2 N022 70K
XU48 OM3 N016 +5 -5 om_3 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R189 N016 0 1500K
R190 om_3 N016 70K
XU49 OM4 N015 +5 -5 om_4 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R191 N015 0 1500K
R192 om_4 N015 70K
XU50 OM1 N020 +5 -5 om_1 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R193 N020 0 1500K
R194 om_1 N020 70K
XU51 OM5 N002 +5 -5 om_5 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R195 N002 0 1500K
R196 om_5 N002 70K
R197 membrMN OM2 10K
R198 membrMN OM4 10K
R199 membrMN OM5 10K
R200 membrMN OM1 8K
V8 N109 0 PULSE(0 3 0m 0 0 3m 25m)
R201 N001 in1 100K
V9 in1 0 PULSE(0 3 0m 0 0 3m 5m 5)
R202 N001 Delay-1 150k
R203 N001 in2 100K
XU53 N001 N003 +5 -5 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R42 N004 N003 150k
R67 N003 0 100K
R1 NC_01 NC_02 10K
R39 N044 in3 100K
V4 in3 0 PULSE(0 3 50m 0 0 3m 5m 5)
R43 N044 Delay-3 150k
R66 N044 in4 100K
XU16 N044 N052 +5 -5 N053 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R98 N053 N052 150k
R99 N052 0 100K
D62 N053 membr3 D
R100 N044 0 10K
R101 N075 in4 100K
V5 in4 0 PULSE(0 3 75m 0 0 3m 5m 5)
R118 N075 Delay-4 150k
R121 N075 in5 100K
XU23 N075 N080 +5 -5 N081 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R122 N081 N080 150k
R123 N080 0 100K
D64 N081 membr4 D
R124 N075 0 10K
R125 N103 in5 100K
V7 in5 0 PULSE(0 3 125m 0 0 3m 5m 5)
R142 N103 Delay-5 150k
XU24 N103 N104 +5 -5 N105 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R146 N105 N104 150k
R163 N104 0 100K
D65 N105 membr5 D
R166 N103 0 10K
R145 N021 in2 100K
V10 in2 0 PULSE(0 3 25m 0 0 3m 5m 5)
R204 N021 Delay-2 150k
R205 N021 in3 100K
XU25 N021 N023 +5 -5 N024 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R206 N024 N023 150k
R207 N023 0 100K
D66 N024 membr2 D
R208 N021 0 10K
D63 N004 membr D
.model D D
.lib C:\Users\Alexe\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.5 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
