.subckt memristor pl mn PARAMS: Ron=10K Roff=100K Rinit=50K alpha=0 beta=1E5 Vt=1
Bx 0 x I='if(((f1(V(pl,mn))>0) & (V(x)<Roff)),f1(V(pl,mn)),if(((f1(V(pl,mn))<0) & (V(x)>Ron)),f1(V(pl,mn)),0))'
Cx x 0 1 IC={Rinit}
R0 pl mn 1E12
Rmem pl mn r={V(x)}
.func f1(y)={beta*y+0.5*(alpha-beta)*(abs(y+Vt)-abs(y-Vt))}
.ends

.subckt memristor1 pl mn PARAMS: Ron=10K Roff=100K Rinit=50K beta=1E4 Vtp=1 Vtm=1 nu1=0.0001 nu2=0.1
Gx 0 x value={f1(V(pl)-V(mn))*(f2(f1(V(pl)-V(mn)))*f3(Roff-V(x))+f2(-f1(V(pl)-V(mn)))*f3(V(x)-Ron))}
Raux x 0 1E12
Cx x 0 1 IC={Rinit}
Gpm pl mn value={(V(pl)-V(mn))/V(x)}
.func f1(y)={beta*(y-Vtp)/(exp(-(y-Vtp)/nu1)+1)+beta*(y+Vtm)/(exp(-(-y-Vtm)/nu1)+1)}
.func f2(y1)={1/(exp(-y1/nu1)+1)}
.func f3(y)={1/(exp(-y/nu2)+1)}
.ends