* HP Memristor SPICE Model Using Joglekar Window

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_JOGLEKAR TE BE XSV 

* Ron: Minimum device resistance
* Roff: Maximum device resistance
* D:   Width of the thin film
* uv:  Dopant mobility
* p:   Parameter for window function
* x0:   State variable initial value

.params Ron=10k Roff=100K x0=.56 D=12N uv=50F p=7

* Joglekar Window Function
.func f(V1) = 1-pow((2*V1-1),(2*p))

* Memristor I-V Relationship
.func IVRel(V1,V2) = V1/(Ron*V2 + Roff*(1-V2))

* Circuit to determine state variable
Gx 0 XSV value={ I(Gmem)*Ron*uv*f(V(XSV,0))/pow(D,2) }
Cx XSV 0 {1}
.ic V(XSV) = x0

* Current source representing memristor
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS MEM_JOGLEKAR


* Knowm Mean Metastable Switch Memristor SPICE Model

* Copyright Tim Molter Knowm Inc. 2017

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_KNOWM TE BE XSV 

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* Von:  Threshold voltage to turn device on
* Voff: Threshold voltage to turn device off
* TAU:  Time constant
* T:    Temperature

.params Ron=50k Roff=150k Voff=0.27 Von=0.27 TAU=0.0001 T=298.5 x0=0 

* Function G(V(t)) - Describes the device threshold
.func G(V) = V/Ron+(1-V)/Roff

* Function F(V(t),x(t)) - Describes the SV motion 
.func F(V1,V2) = (1/TAU)*((    1/(1+exp(-1/(T*boltz/echarge)*(V1-Von)))   )*(1-V2)-(    1-(1/(1+exp(-1/(T*boltz/echarge)*(V1+Voff))))    )*V2

* Memristor I-V Relationship
.func IVRel(V1,V2) = V1*G(V2)

* Circuit to determine state variable
* dx/dt = F(V(t),x(t))*G(V(t))
Cx XSV 0 {1}
.ic V(XSV) = x0
Gx 0 XSV value={F(V(TE,BE),V(XSV,0))}

* Current source for memristor IV response
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS MEM_KNOWM


* Memristor subcircuit developed by Chang et al.

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_UMICH TE BE XSV 

* Parameters:
* alpha:      Prefactor for Schottky barrier
* beta:       Exponent for Schottky barrier
* gamma:      Prefactor for tunneling
* delta:      Exponent for tunneling
* xmax:       Maximum value of state variable
* xmin:       Minimum value of state variable
* drift_bit:  Binary value to switch the ionic drift in (1)
*             or out (0) of the equation
* lambda:     State variable multiplier
* eta1, eta2: State variable exponential rates
* tau:        Diffusion coefficient

.param alpha=0.5e-6 beta=0.5 gamma=4e-6 delta=2 xmax=1 xmin=0
+drift_bit = 0 lambda=4.5 eta1=0.004 eta2=4 tau=10

.param cp={1}
Cpvar XSV 0 {cp}

* Rate equation for state variable
Gx 0 XSV value={ trunc(V(TE,BE),cp*V(XSV))*lambda*(eta1*sinh(eta2*V(TE,BE))-
+drift_bit*cp*V(XSV)/tau) }

.ic V(XSV) = 0.0

* Auxiliary functions to limit the range of x
.func sign2(var) {(sgn(var)+1)/2}
.func trunc(var1,var2) {sign2(var1)*sign2(xmax-var2)+sign2(-
+var1)*sign2(var2-xmin)}

* Memristor IV Relationship
Gm TE BE value={(1-cp*V(XSV))*alpha*(1-exp(-
+beta*V(TE,BE)))+(cp*V(XSV))*gamma*sinh(delta*V(TE,BE))}

.ENDS MEM_UMICH



* HP Memristor SPICE Model Using Biolek Window

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_BIOLEK TE BE XSV 

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* D:    Width of the thin film
* uv:   Dopant mobility
* p:    Parameter for window function
* x0:   State varaible initial value

.params Ron=10k Roff=100K x0=.076 D=16N uv=40F p=7

* Biolek Window Function
.func f(V1,I1)={1-pow((V1-stp(-I1)),(2*p))}

* Memristor I-V Relationship
.func IVRel(V1,V2) = V1/(Ron*V2 + Roff*(1-V2))

* Circuit to determine state variable
Gx 0 XSV value={I(Gmem)*Ron*uv*f(V(XSV,0),I(Gmem))/pow(D,2)}
Cx XSV 0 {1}
.ic V(XSV) = x0

* Current source representing memristor
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS MEM_BIOLEK


* SPICE model for memristive devices
* Created by Chris Yakopcic 
* Last Update: 8/9/2011
*
* Connections:
* TE - top electrode
* BE - bottom electrode
* XSV - External connection to plot state variable
* that is not used otherwise

.subckt MEM_YAKOPCIC TE BE XSV

* Fitting parameters to model different devices
* a1, a2, b:      Parameters for IV relationship
* Vp, Vn:         Pos. and neg. voltage thresholds
* Ap, An:         Multiplier for SV motion intensity
* xp, xn:         Points where SV motion is reduced
* alphap, alphan: Rate at which SV motion decays
* xo:             Initial value of SV
* eta:            SV direction relative to voltage

*.params a1=0.17 a2=0.17 b=0.05 Vp=0.16 Vn=0.15 
*+Ap=4000 An=4000 xp=0.3 xn=0.5 alphap=1 alphan=5 
*+xo=0.11 eta=1

.params a1=.17 a2=.17 b=0.05 Vp=.65 Vn=0.56 Ap=4000 
+An=4000 xp=0.3 xn=0.5 alphap=1 alphan=5 xo=0.11 eta=1

* Multiplicitive functions to ensure zero state
* variable motion at memristor boundaries
.func wp(V) = xp/(1-xp) - V/(1-xp) + 1
.func wn(V) = V/(1-xn)

* Function G(V(t)) - Describes the device threshold
.func G(V) = IF(V <= Vp, IF(V >= -Vn, 0, -An*(exp(-
+V)-exp(Vn))), Ap*(exp(V)-exp(Vp)))

* Function F(V(t),x(t)) - Describes the SV motion 
.func F(V1,V2) = IF(eta*V1 >= 0, IF(V2 >= xp, exp(-
+alphap*(V2-xp))*wp(V2) ,1), IF(V2 <= (1-xn), 
+exp(alphan*(V2+xn-1))*wn(V2) ,1))

* IV Response - Hyperbolic sine due to MIM structure
.func IVRel(V1,V2) = IF(V1 >= 0, a1*V2*sinh(b*V1),
+a2*V2*sinh(b*V1) )

* Circuit to determine state variable
* dx/dt = F(V(t),x(t))*G(V(t))
Cx XSV 0 {1}
.ic V(XSV) = xo
Gx 0 XSV value={eta*F(V(TE,BE),V(XSV,0))*G(V(TE,BE))}
* Current source for memristor IV response
Gm TE BE value = {IVRel(V(TE,BE),V(XSV,0))}

.ends MEM_YAKOPCIC
